Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I had a funny feeling something bad was going to happen"

 
Major Surgical or Invasive Procedure:
Prior to admission: ___ Endometrial polypectomy.

 
History of Present Illness:
Ms. ___ is a ___ year old woman with an extensive
history of trauma (murder witness, abuse by siblings, rape x2)
who was discharged from the ED yesterday (___).  She initially
presented to the ED ___ night (___) following a fight
with her boyfriend, at the end of which she grabbed a knife and
cut herself superficially on the wrist while her boyfriend
attempted to restrain her and called ___.  She was discharged
home from the ED as she was not felt to be an acute threat to
herself and both the patient and her boyfriend expressed that
they did not think inpatient admission would be helpful.  Ms.
___ is now back in the ED secondary to a routine follow-up
call by ED staff; she was sobbing on the phone and expressed
depression.  Ms. ___ was then advised to come to the ED.

Ms. ___ explains that she got into a fight with her boyfriend
on ___ night, during which her boyfriend held her arm "the
way the rapist did" and said "you're crazy," which was something
her rapist also said.  This triggered her feeling like she was
reliving her rape.  There is a gap in her memory, after which 
she
remembers holding a knife and trying to hurt herself.  EMS
brought her to the hospital after her boyfriend called ___. 
Regarding this incident the patient says she had "never blacked
out like that."

After she was sent home yesterday morning, Ms. ___ fell 
asleep
and slept poorly due to nightmares.  During the day "my 
boyfriend
tried to keep me occupied" by taking her grocery shopping and
focussed on other small daily tasks.  She went to bed early and
again slept poorly due to nightmares.  This morning she 
"couldn't
get up" and had a "funny feeling something bad was going to
happen."  This morning her boyfriend drove her to work and they
argued; the patient reports that he said she was at fault for
pushing him away.  The patient found the interaction this 
morning
very distressing, and her thoughts turned to guilt and death: "I
feel like maybe the rape was my fault" & "maybe the ___ who 
raped
me should have killed me."  At the time of the interview by
psychiatry consult service, she says that she is afraid if she
were to be alone she might hurt herself.

The patient endorses distressing, intrusive recollections of the
most recent rape and reliving the experience (such as the
incident yesterday).  She has nightmares ___ per week from 
which
she will wake up "believing it's real" and acting on that belief
by crying out or striking out at her bed partner.  She responds
to triggers such as seeing a horror movie or to actions that
remind her of the rape, such as her boyfriend saying "you're
crazy" or grabbing her wrists.  She avoids going out and walking
by herself because her first rape, in ___ grade, occurred
outdoors when she was walking home through the woods.  She
endorses memory loss of the traumas, saying "I forget certain
things," and decreased interest in activities since the last
rape, saying "I feel like I'm a different person."  She feels
detached from others and when she is out with her boyfriend's
friends she cannot attend to the conversation because "I'm
thinking about so many things."  She has a sense of 
foreshortened
future, saying "I don't see anything right now" in her future. 
She is "always scared," is easily startled, and says "I don't
trust anyone."

Current stressors include inability to pay rent, inability to 
get
pregnant although she and her boyfriend have been trying for the
past 8 months, her boyfriend's being "not ready" for marriage 
and
his recent decreased affection towards her, and anticipation of
her surgical follow-up appointment in two days (she is s/p
endometrial polypectomy, see ___).
 
Past Medical History:
PSYCHIATRIC HISTORY:
- Only history of psychiatric treatment was in ___ grade.  A
month after she was raped in the woods walking home from school,
she told her parents about the incident and they sent her to a
counselor.  She did not like the counselor, nor the medications
she was given -- paxil and wellbutrin -- which made her "crazy"
and "anxious."  She has never had any other outpatient treatment
nor tried any other medications.
- no suicide attempts
- no assault or violence towards others

PAST MEDICAL HISTORY (INCLUDE HISTORY OF HEAD TRAUMA, SEIZURES,
OR OTHER NEUROLOGIC ILLNESS):
- PCP is ___
- s/p endometrial polypectomy on ___
- h/o menorrhagia x2 months, resolved after surgery

     ALLERGIES: None.

     MEDICATIONS ON ADMISSION: None.
 
Social History:
SUBSTANCE ABUSE HISTORY:
- no history of alcohol abuse; stopped drinking entirely 8 
months
ago to attempt pregnancy, had one daqueri on ___ just prior
to ED admission
- no IV drug, recreational drug, or tobacco use

SOCIAL HISTORY:

Raised by mother, a ___, and father, a ___.  Had two older
brothers, one ___ years older and the other ___ year older.  

Note contains an addendum. See bottom.  

Note Date: ___
Signed by ___, MD on ___ at 4:42 pm  Affiliation: 
___
Cosigned by ___, MD on ___ at 10:46 pm
 
___
PSYCHIATRIC EMERGENCY DEPARTMENT AND ADMISSION HISTORY
& EVALUATION

IDENTIFYING DATA AND REASON FOR ADMISSION:
Ms. ___ is a ___ year old woman who, after being
discharged home from the ED yesterday, re-presents to the ED
following a routine ED follow-up call during which she sobbed 
and
expressed feelings of depression and emotional flooding.

SOURCES OF INFORMATION: 
ED notes from yesterday - reliable
Patient - reliable

LEGAL STATUS: ___

CHIEF COMPLAINT:
"I had a funny feeling something bad was going to happen"

HISTORY OF PRESENT ILLNESS:

Ms. ___ is a ___ year old woman with an extensive
history of trauma (murder witness, abuse by siblings, rape x2)
who was discharged from the ED yesterday (___).  She initially
presented to the ED ___ night (___) following a fight
with her boyfriend, at the end of which she grabbed a knife and
cut herself superficially on the wrist while her boyfriend
attempted to restrain her and called ___.  She was discharged
home from the ED as she was not felt to be an acute threat to
herself and both the patient and her boyfriend expressed that
they did not think inpatient admission would be helpful.  Ms.
___ is now back in the ED secondary to a routine follow-up
call by ED staff; she was sobbing on the phone and expressed
depression.  Ms. ___ was then advised to come to the ED.

Ms. ___ explains that she got into a fight with her boyfriend
on ___ night, during which her boyfriend held her arm "the
way the rapist did" and said "you're crazy," which was something
her rapist also said.  This triggered her feeling like she was
reliving her rape.  There is a gap in her memory, after which 
she
remembers holding a knife and trying to hurt herself.  EMS
brought her to the hospital after her boyfriend called ___. 
Regarding this incident the patient says she had "never blacked
out like that."

After she was sent home yesterday morning, Ms. ___ fell 
asleep
and slept poorly due to nightmares.  During the day "my 
boyfriend
tried to keep me occupied" by taking her grocery shopping and
focussed on other small daily tasks.  She went to bed early and
again slept poorly due to nightmares.  This morning she 
"couldn't
get up" and had a "funny feeling something bad was going to
happen."  This morning her boyfriend drove her to work and they
argued; the patient reports that he said she was at fault for
pushing him away.  The patient found the interaction this 
morning
very distressing, and her thoughts turned to guilt and death: "I
feel like maybe the rape was my fault" & "maybe the ___ who 
raped
me should have killed me."  At the time of the interview by
psychiatry consult service, she says that she is afraid if she
were to be alone she might hurt herself.

The patient endorses distressing, intrusive recollections of the
most recent rape and reliving the experience (such as the
incident yesterday).  She has nightmares ___ per week from 
which
she will wake up "believing it's real" and acting on that belief
by crying out or striking out at her bed partner.  She responds
to triggers such as seeing a horror movie or to actions that
remind her of the rape, such as her boyfriend saying "you're
crazy" or grabbing her wrists.  She avoids going out and walking
by herself because her first rape, in ___ grade, occurred
outdoors when she was walking home through the woods.  She
endorses memory loss of the traumas, saying "I forget certain
things," and decreased interest in activities since the last
rape, saying "I feel like I'm a different person."  She feels
detached from others and when she is out with her boyfriend's
friends she cannot attend to the conversation because "I'm
thinking about so many things."  She has a sense of 
foreshortened
future, saying "I don't see anything right now" in her future. 
She is "always scared," is easily startled, and says "I don't
trust anyone."

Current stressors include inability to pay rent, inability to 
get
pregnant although she and her boyfriend have been trying for the
past 8 months, her boyfriend's being "not ready" for marriage 
and
his recent decreased affection towards her, and anticipation of
her surgical follow-up appointment in two days (she is s/p
endometrial polypectomy, see PMH).

PSYCHIATRIC HISTORY:
- Only history of psychiatric treatment was in ___ grade.  A
month after she was raped in the woods walking home from school,
she told her parents about the incident and they sent her to a
counselor.  She did not like the counselor, nor the medications
she was given -- paxil and wellbutrin -- which made her "crazy"
and "anxious."  She has never had any other outpatient treatment
nor tried any other medications.
- no suicide attempts
- no assault or violence towards others

PAST MEDICAL HISTORY (INCLUDE HISTORY OF HEAD TRAUMA, SEIZURES,
OR OTHER NEUROLOGIC ILLNESS):
- PCP is ___
- s/p endometrial polypectomy on ___
- h/o menorrhagia x2 months, resolved after surgery

     ALLERGIES: None.

     MEDICATIONS ON ADMISSION: None.

SUBSTANCE ABUSE HISTORY:
- no history of alcohol abuse; stopped drinking entirely 8 
months
ago to attempt pregnancy, had one daqueri on ___ just prior
to ED admission
- no IV drug, recreational drug, or tobacco use

SOCIAL HISTORY:

Raised by mother, a ___, and father, a ___.  Had two older
brothers, one ___ years older and the other ___ year older.  

Trauma:
- When she was ___, her uncle was holding her when a man came up 
to
them and stabbed her uncle to death.
- Her brothers began hurting her when they were in high school,
slapping her, punching her, and once pushing her down the 
stairs.
They also stole from her and threatened her, such that she put a
lock on her bedroom door.
- In ___ grade, she was walking home from school through the
woods because one of her brothers had failed to come pick her 
up.
She was raped on the way home.  She told her parents a month
later and never went to the police.
- On her ___ or ___ birthday she was raped by an acquaintance. 

He drugged her, held a gun to her head, and held her down (but
she blames herself, saying "I led him on" & citing the way she
was dressed).  After the rape he threatened her and her family 
if
she were to go to the police, so she didn't.

Education: difficulty in school required an IEP, reasons 
unclear.
She transferred from a ___ to an ___ speaking school
during elementary school and had language difficulties, but 
never
caught up and still required an IEP in high school. She 
completed
technical school for massage therapy but never worked as a
___ as towards the end of her training she realized she was
uncomfortable being alone in a room with a man.

Employment: ___
Social support: ___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Aunt who has been "committed" for 3 months, unknown diagnosis. 
Brother also with psychiatric issues, unknown symptoms or
diagnosis.
 
Physical Exam:
PHYSICAL EXAMINATION (done on ___ by Dr. ___:

VS: T 96.0, BP 120/78, HR 87, RR 16, O2 100%RA
General: Well-nourished, in no acute distress.
HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
Neck: Supple, trachea midline.  No adenopathy or thyromegaly.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal
pulses
Abdomen: +BS, Soft, diffuse low-grade tenderness, nondistended;
no masses or organomegaly, no rigidity/rebound/guarding
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological:
  *Cranial Nerves-
      I: Not tested
       II: Pupils equally round and reactive to light
bilaterally. 
      III, IV, VI: Extraocular movements intact bilaterally
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
Normal bulk and tone bilaterally. No abnormal movements, 
tremors.
Strength full power ___ throughout. No pronator drift.   
  *Sensory - No gross sensory deficits
  *Reflexes- B +2 T +2 Pa +2
  *Coordination- Normal on finger-nose-finger, rapid alternating
movements
  *Gait - Normal gait

MENTAL STATUS EXAM (from admission)
     APPEARANCE & FACIAL EXPRESSION: Young ___ 
woman
wearing brown plastic-frame glasses and hospital gowns, lying in
hospital bed.
     POSTURE: Bed elevated to ~45, patient leaning back against
bed.
     BEHAVIOR: No abnormal movements.
     ATTITUDE: Cooperative.
     SPEECH: mildly slowed
     MOOD: "I'm ok, tired, anxious"
     AFFECT: congruent, appropriate, dysthymic
     THOUGHT FORM: linear
     THOUGHT CONTENT: no delusions
     ABNORMAL PERCEPTIONS: no hallucinations
     NEUROVEGETATIVE SYMPTOMS: "terrible" sleep, excessive
eating, energy "weak & tired," libido "terrible."  Denies all sx
of mania, current or past.
     SUICIDALITY/HOMICIDALITY: "I just feel like I'm better off
dead," "I'm scared if I'm alone I might," but "I don't think I
could ever kill myself."  Plans of taking pills (has 
post-surgery
prescription painkillers & ibuprofen at home), using a knife, or
jumping from ___ balcony.  No homicidality.
     INSIGHT AND JUDGMENT: Insight fair, judgement ok in that 
she
is seeking help.
     COGNITIVE ASSESSMENT:
          SENSORIUM: Alert
          ORIENTATION: +place, ___.  2 hours
off on time and 1 day behind on date.
          ATTENTION: Unable to do months of year backwards. 
Paused after ___ for a while, commenting "I can't even 
think"
and had long pause again after ___, then skipped ___.
          MEMORY: ___ registration, ___ on second try; ___
short-term but able to pick other 2 items out of list.
          CALCULATIONS: $2.50 = 10 quarters
          FUND OF KNOWLEDGE: Able to name last 3 presidents but
not elder ___ able to cite ___ as news.
          PROVERB INTERPRETATION: Intially could not interpret
"birds of a feather flock together" but then did so correctly
when prompted that this is a saying about people.  Correctly
interpreted "don't cry over spilt milk."
          SIMILARITIES/ANALOGIES: lamp/sun = light, apple/banana
= fruit
 
Pertinent Results:
___ 11:45AM   GLUCOSE-97 UREA N-12 CREAT-0.6 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-107 TOTAL CO2-22 ANION GAP-14
___ 11:45AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:45AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 11:45AM   WBC-10.4 RBC-4.36 HGB-13.2 HCT-37.5 MCV-86 
MCH-30.3 MCHC-35.2* RDW-13.5
___ 11:45AM   NEUTS-74.1* ___ MONOS-3.9 EOS-1.1 
BASOS-0.2
___ 11:45AM   PLT COUNT-273
___ 04:05AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:05AM   WBC-11.2* RBC-4.09* HGB-12.6 HCT-36.3 MCV-89 
MCH-30.8 MCHC-34.8 RDW-13.2
___ 04:05AM   NEUTS-79.0* LYMPHS-14.8* MONOS-4.4 EOS-1.3 
BASOS-0.4
___ 04:05AM   PLT COUNT-___. Legal: ___
2. Medical: Ms. ___ had an endometrial polypectomy done prior 
to admission on ___. She was scheduled to have a follow-up to 
review her pathology results with Dr. ___ on ___, but 
was unable to due to this hospitalization. Dr. ___ was 
consulted regarding the results and planning for informing the 
patient. Dr. ___ the team that the pathology results 
indicated endometrial intraepithelial neoplasia (EIN) with 
squamous morular metaplasia, a pre-malignant lesion that confers 
risk for endometrial cancer. Initially Dr. ___ this writer 
(Dr. ___ agreed that given the patient's emotional 
lability, self-harm prior to admission, and non-acuity of the 
pathology results it would be best to wait until her crisis had 
resolved to inform the patient. By hospital day 2, the patient 
had improved significantly psychiatrically (see below). Dr. ___ 
___ the team agreed that given Ms. ___ improvement it would 
be beneficial to inform her as an inpatient in case she 
responded to the information poorly. Dr. ___ Ms. 
___ of the results on ___, which the patient responded to 
appropriatley. At the time of this writing, Ms. ___ has plans 
to follow-up with Dr. ___ Dr. ___ oncologist). 

Of note, Ms. ___ declined physical exam with a male 
phyisician, delaying her physical exam until ___. On that 
date, a physical exam was performed by Dr. ___, which 
was within normal limits except for mild abdominal pain which 
the patient attributed to constipation. This was reportedly 
unrelieved by milk of magnesia and so she was prescribed 
docusate with symptomatic improvement. Ms. ___ has no other 
medical complaints throughout admission.

3. Psychiatric: Diagnosis: Posttraumatic Stress Disorder; Major 
Depressive Disorder, severe, recurrent, without psychotic 
features.

Upon admission, Ms. ___ was tearful, anxious, and dysthymic. 
She expressed being extremely troubled by nightmares and 
endorsed flashbacks related to her previous traumas. Her 
depression, anxiety, and PTSD symptoms were interfering 
significantly with her relationship with her boyfriend, her 
work, and causing her to have thoughts of ending her life. She 
was started on Sertraline 25mg PO qDaily which was subsequently 
increased to 50mg PO qDaily, as well as Prazosin 1mg PO qHS 
which was subsequently increased to 2mg PO qHS. Initially, Ms. 
___ was started on Lorazepam 0.5mg PO BID PRN anxiety, 
however because the patient had severe continued anxiety and was 
not asking for the Lorazepam, it was changed to a 0.5mg PO QID 
standing dose.

Prior to increasing her Prazosin to 2mg, Ms. ___ reported one 
night in which she had two distressing nightmares. However, 
after increasing this dose she no longer experienced any 
troubling dreams. Her mood and anxiety improved and Ms. ___ 
actively engaged in groups - particularly focusing on developing 
her coping skills. Upon recieving her pathology results (see 
above), Ms. ___ responded appropriately and did not become 
acutely depressed or express any suicidal ideation. After 
hospital day 1, Ms. ___ did not report any suicidal ideation, 
homicidal ideation, or intent or plan to harm herself or others. 
She was able to attend to her activities of daily living well. 
At this time she does not pose an acute danger to hreself or 
others and is able to care for herself as an outpatient. She can 
safely be discharged to home with follow-up with a women's 
partial hospitalization program as listed in this discharge 
summary, as well as with her GYN providers, Dr. ___ Dr. 
___.

4. Psychosocial: Ms. ___ has severe psychosocial stressors 
including relationship discord with her boyfriend of ___ years, 
social isolation, and financial instability. During this 
hospitalization, Ms. ___ boyfriend came to visit several 
times and met with our social worker ___, ___. Ms. 
___ expressed her desire to have her boyfriend involved with 
her therapy. She also voiced understanding that she had 
unreasonable expectations of him in the past and established 
concrete strategies to improve their communication in the 
future. Additionally, Ms. ___ voiced a desire to be more 
social and expressed that she was going to actively pursue 
friendships with co-workers.

5. Safety: Ms. ___ displayed good behavioral control 
throughout admission, requiring no restraints and being on q15 
minute checks and restriction to the unit.
 
Medications on Admission:
None.
 
Discharge Medications:
1. prazosin 1 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).
Disp:*14 Capsule(s)* Refills:*0*
2. sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*7 Tablet(s)* Refills:*0*
3. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for Anxiety.
Disp:*21 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Posttraumatic stress disorder. Major depressive disorder, 
severe, recurrent, without psychotic symptoms.

 
Discharge Condition:
VS: T 98.3, BP 120/78, HR 93, RR 18, O2 100%RA
MSE:
    APPEARANCE: Well-groomed, bespectacled, overweight Hispanic
woman dressed in street clothes and sitting comfortably in chair
in no apparent distress.
    BEHAVIOR: Calm, cooperative, pleasant.
    MOTOR: No abnormal movements seen. 
    SPEECH: rate/rhythm/prosody wnl.
    MOOD: 'Better'
    AFFECT: Mildly dysthymic, but significantly improved.
Moderately anxious. Smiles/socially interacts appropriately.
    THOUGHT FORM: Linear, logical, goal-directed.
    THOUGHT CONTENT: Denies SI/HI and contracts for safety.
    ABNORMAL PERCEPTIONS: Denies AVH. Does not appear to be
responding to internal stimuli.
    INSIGHT: Fair
    JUDGMENT: Fair
    COGNITION: AAOx3

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___